US04515793
2-[4-[3-Chloro-4-(hydroxymethyl)phenyl]-1-piperazinyl]-1-(3-aminophenyl)-ethanone (Cpd. 25)
A solution of 2-[4-[3-chloro-4-(hydroxymethyl)phenyl]-1-piperazinyl]-1(3-nitrophenyl)ethanone (1.5 g, 3.8 m mole) in 100 ml of tetrahydrofuran was catalytically reduced at 25° over 0.5 g of Raney-Nickel with an average of three atmospheres of hydrogen. When the theoretical amount of hydrogen had been absorbed, the mixture was filtered and the filtrate was evaporated at reduced pressure to give a yellow solid which was recrystallized from acetonitrile to afford 0.95 g (69%), mp 174.5°-180° (Table 1). Prepared in the like manner were Cpd. 37 (Table 2) and 26 (Table 1).

reactant | 2-[4-[3-chloro-4-(hydroxymethyl)phenyl]-1-piperazinyl]-1(3-nitrophenyl)ethanone | 1.5 g | ClC=1C=C(C=CC1CO)N1CCN(CC1)CC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C19H20ClN3O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Raney-Nickel | 0.5 g | [Ni] | Ni
product | 2-[4-[3-Chloro-4-(hydroxymethyl)phenyl]-1-piperazinyl]-1-(3-aminophenyl)-ethanone | ClC=1C=C(C=CC1CO)N1CCN(CC1)CC(=O)C1=CC(=CC=C1)N | C19H22ClN3O2
